US07465815B2
3-(4-Isopropylphenyl)-4,6,7-trimethyl-1-benzofuran-2 (3H)-one
To a mixture of hydroxy(4-isopropylphenyl)acetic acid synthesized in Reference Example 1 (11.8 g, 60.8 mmol) and 2,3,5-trimethylphenol (12.4 g, 91.2 mmol) was added 70% sulfuric acid (10 mL) at room temperature, and the mixture was stirred at 115° C. for 12 hours. The mixture was added to water and was extracted with diisopropyl ether. The extract was washed with water and a saturated sodium hydrogen carbonate solution, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was purified by silica gel column chromatography (hexane ethyl acetate=8:1) to obtain 10.9 g (yield 65%) of the title compound. Melting point: 107-108° C. (hexane-ethyl acetate).

reactant | hydroxy(4-isopropylphenyl)acetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
reactant | 2,3,5-trimethylphenol | 91.2 mmol, 12.4 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-(4-Isopropylphenyl)-4,6,7-trimethyl-1-benzofuran-2 (3H)-one | 10.9 g, yield 65% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=CC(=C2C)C)C)=O | C20H22O2
